US06444826B1
[[3 (2 R, 3R)]-4 R, 5S]-3-[2-Benzyl-3-(4-bromo-2-fluoro-phenyl)-3 -hydroxy-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one
To a solution of (4R, 5S)-4-methyl-5-phenyl-3-(3-phenyl-propionyl)-oxazolidin-2-one (1.50 g, 4.8 mmol) in dichloromethane (23 mL) at −70° C. was added titanium tetrachloride (0.6 mL, 5.3 mmol) giving a yellow-orange solution which was stirred for 15 minutes at −70° C. N,N,N′,N′-Tetramethylethylenediamine(2.2 mL, 15 mmol) was added over 10 minutes giving a dark red reaction mixture which was stirred for 70 minutes at −78° C. 1-Methyl-2-pyrrolidinone (0.90 mL, 9.7 mmol) was added dropwise, and the reaction mixture was stirred for 30 minutes at −70° C. A solution of 4-bromo-2-fluoro-benzaldehyde (0.990 g, 4.9 mmol) in dichloromethane (5 mL) was added dropwise while maintaining a reaction temperature of less than or equal to −68° C. The reaction mixture was stirred at −70° C. for 60 minutes and then allowed to warm to 0 C. over 90 minutes, at which point it was quenched with 15 mL of saturated aqueous ammonium chloride and 1.2 g. of Celite®. This mixture was stirred overnight at room temperature and filtered. The phases were separated and the organic phase was washed three times with water and once with brine, dried over magnesium sulfate, and concentrated under vacuum to 2.76 g of an oil containing the title compound and 1.2 equivalents of 1 -methyl-2-pyrrolidinone: 1H NMR (400 MHz, CDCl3) 67 7.48 (t, J=8.1 Hz, 1 H), 7.09-7.34 (m, 1 2H), 5.35 (d, J=7.3 Hz, 1 H), 5.32 (d, J=4.9 Hz, 1 H), 4.89-4.92 (m, 1 H), 4.51-4.55 (m, 1 H), 3.65 (bs, 1 H), 3.35 (dd, J=7.1, 7.1 Hz, 2H), 3.03-3.06 (m, 2 H), 2.81 (s, 3H), 2.34 (dd, J=8.1, 8.1 Hz, 2H), 1.95-2.03 (m, 2H), 0.40 (d, J=6.6 Hz, 3 H).

reactant | (4R, 5S)-4-methyl-5-phenyl-3-(3-phenyl-propionyl)-oxazolidin-2-one | 4.8 mmol, 1.50 g | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CCC1=CC=CC=C1)=O | C19H19NO3
reactant | N,N,N′,N′-Tetramethylethylenediamine | 15 mmol, 2.2 mL | CN(CCN(C)C)C | C6H16N2
reactant | 1-Methyl-2-pyrrolidinone | 9.7 mmol, 0.90 mL | CN1C(CCC1)=O | C5H9NO
reactant | 4-bromo-2-fluoro-benzaldehyde | 4.9 mmol, 0.990 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 1 -methyl-2-pyrrolidinone | 1.2 equivalents | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 5.3 mmol, 0.6 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 3-[2-Benzyl-3-(4-bromo-2-fluoro-phenyl)-3 -hydroxy-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one | C(C1=CC=CC=C1)C(C(=O)N1C(OC(C1C)C1=CC=CC=C1)=O)C(O)C1=C(C=C(C=C1)Br)F | C26H23BrFNO4
